US06589978B2
To a stirred solution of (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonitrile (0.70 g, 2.03 mmol) in DMF (25 ml) was added at room temperature sodium azide (0.40 g, 6.10 mmol) and triethylamine hydrochloride (0.42 g, 3.05 mmol) and the reaction mixture was stirred at 120° C. for 6 h. The mixture was poured in water (100 ml), acidified (2 N HCl) and the formed solid was collected to give (2RS,5SR)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-2H-tetrazole (0.73 g, yield 93%) as an off-white solid, m.p. 150° C.

reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonitrile | 2.03 mmol, 0.70 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C#N | C18H17FN2O2S
reactant | sodium azide | 6.10 mmol, 0.40 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 3.05 mmol, 0.42 g | Cl.C(C)N(CC)CC
reactant | HCl | 2 N | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | (2RS,5SR)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-2H-tetrazole | 0.73 g, yield 93% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C=1N=NNN1 | C18H18FN5O2S
